US07262198B2
To a solution of (2R)-1-(2-methylbenzothiazol-5-yloxy)-3-piperazin-1-ylpropan-2-ol (500 mg, 1.63 mmol) in EtOH (25 mL) was added N-(2-bromoethyl) phthalimide (435 mg, 1.71 mmol) and Et3N (0.79 mL, 5.7 mmol). The reacting solution was shaken at 90° C. for 16 hours. Upon cooling, the solution was concentrated to an oil and purified via flash column chromatography (4:1 EtOAc/MeOH) to afford 2-(2-{4-[(2R)-2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}ethyl)benzo[c]azolidine-1,3-dione.

reactant | (2R)-1-(2-methylbenzothiazol-5-yloxy)-3-piperazin-1-ylpropan-2-ol | 1.63 mmol, 500 mg | CC=1SC2=C(N1)C=C(C=C2)OC[C@@H](CN2CCNCC2)O | C15H21N3O2S
reactant | N-(2-bromoethyl) phthalimide | 1.71 mmol, 435 mg | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | Et3N | 5.7 mmol, 0.79 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 25 mL | CCO | C2H6O
product | 2-(2-{4-[(2R)-2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}ethyl)benzo[c]azolidine-1,3-dione | O[C@H](CN1CCN(CC1)CCN1C(C2=C(C1=O)C=CC=C2)=O)COC=2C=CC1=C(N=C(S1)C)C2 | C25H28N4O4S
